US04335255
Perfluoro(2-oxo-3,6-dimethyl-1,4-dioxane), 314 g (1.01 mol), was added dropwise to a slurry of 56.1 g (1.0 mol) of calcium oxide in 500 ml of water while the slurry was stirred in an ice bath. The resultant mixture was stirred for one hour, heated nearly to reflux for 30 min, and stirred for about 65 h. Upon evaporation of the water, the crystalline residue which remained was treated portionwise with 450 g (3.2 mol) of P2O5. The resultant mixture was heated slowly (exothermic reaction) to 150° and then distilled to give 246 g of crude 2-oxo-6-hydroxyperfluoro(3,6-dimethyl-1,4-dioxane), bp 70°-75° (50 mm); upon redistillation from a small amount of P2O5 208 g (67%) of purified lactol was recovered, bp 71°-73° (50 mm). IR: 2.90 (free OH), 5.51 (fluorolactone C=O), 7.5-10μ (C--F, C--O). NMR: 19F -82.7 (several m, 7, CF3 +part of AB for O--CF2) -113.0 and -115.6 ppm (m, 1 CF).

reactant | Perfluoro(2-oxo-3,6-dimethyl-1,4-dioxane) | FC1(C(OC(C(O1)(F)F)(C(F)(F)F)F)=O)C(F)(F)F | C6F10O3
reactant | calcium oxide | 1.0 mol, 56.1 g | [O-2].[Ca+2]
reactant | P2O5 | 3.2 mol, 450 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | water | 500 ml | O | H2O
product | 2-oxo-6-hydroxyperfluoro(3,6-dimethyl-1,4-dioxane) | 246 g | O=C1OC(C(OC1(C(F)(F)F)F)(F)F)(C(F)(F)F)O | C6HF9O4
